US06838463B2
In 10 ml of N,N-dimethylformamide were dissolved 313 mg of 4-chloro-2-methyl-6-phenylpyrimidine and 118 mg of 2-butyn-1-ol, to which 67 mg of sodium hydride (60% in oil) was added, followed by stirring at room temperature for 12 hours. The reaction mixture was then poured into water and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The resulting residue was subjected to silica gel column chromatography to give 260 mg of 2-methyl-4-phenyl-6-(2-butynyloxy)pyrimidine (the present compound (78)).

reactant | 4-chloro-2-methyl-6-phenylpyrimidine | 313 mg | ClC1=NC(=NC(=C1)C1=CC=CC=C1)C | C11H9ClN2
reactant | 2-butyn-1-ol | 118 mg | C(C#CC)O | C4H6O
reactant | sodium hydride | 67 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-methyl-4-phenyl-6-(2-butynyloxy)pyrimidine | 260 mg | CC1=NC(=CC(=N1)C1=CC=CC=C1)OCC#CC | C15H14N2O
